US06593330B2
Step 1: 2-Chloro-6-(2-fluoroethoxy)pyrazine
K-t-BuO (1.32 g, 11.8 mmol) was added portionwise to a stirred mixture of 2-fluoroethanol (2.16 g, 33.7 mmol) and 2,6-dichloropyrazine (1.61 g, 10.8 mmol) in dioxane (2 mL) at 0° C. (ice-bath). The reaction mixture was then stirred at room temperature for 1 hour, diluted with dichloromethane, filtered, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (19×4 cm) using n-hexane/ethyl acetate (85:15) as eluent. This furnished 1.49 g (78%) of the title compound as a beige liquid. Anal. (C6H6FClN2O) C, H, N.

reactant | 2-fluoroethanol | 33.7 mmol, 2.16 g | FCCO | C2H5FO
reactant | 2,6-dichloropyrazine | 10.8 mmol, 1.61 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Chloro-6-(2-fluoroethoxy)pyrazine | ClC1=NC(=CN=C1)OCCF | C6H6ClFN2O
